US06346532B1
(R)-2-(1H-Benzimidazol-2-yl)-4′-[4-[2-[N-benzyl-N-(2-hydroxy-2-phenylethyl)amino]ethyl]phenyl]acetanilide (240 mg) was dissolved in 30 ml of ethanol, then 170 mg of 10% palladium-carbon was added thereto and the mixture was stirred for nine hours in a hydrogen atmosphere under atmospheric pressure. The catalyst was filtered off, the solvent was evaporated in vacuo, and the residue was washed with ethanol-ethyl acetate to give 200 mg of (R)-2-(1H-benzimidazol-2-yl)-4′-[2-[(2-hydroxy-2-phenylethyl)amino]-ethyl]acetanilide.

reactant | (R)-2-(1H-Benzimidazol-2-yl)-4′-[4-[2-[N-benzyl-N-(2-hydroxy-2-phenylethyl)amino]ethyl]phenyl]acetanilide | 240 mg | N1C(=NC2=C1C=CC=C2)CC(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)CCN(C[C@@H](C2=CC=CC=C2)O)CC2=CC=CC=C2 | C38H36N4O2
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 170 mg | [C].[Pd]
product | (R)-2-(1H-benzimidazol-2-yl)-4′-[2-[(2-hydroxy-2-phenylethyl)amino]-ethyl]acetanilide | 200 mg | N1C(=NC2=C1C=CC=C2)CC(=O)NC2=CC=C(C=C2)CCNC[C@@H](C2=CC=CC=C2)O | C25H26N4O2
